US05102667
A solution of 2-[2-dimethylaminophenyl]acetic acid (1.8 g) in dry tetrahydrofuran (10 cc) is added at 10° C. to a solution of lithium diisopropylamide (prepared by the action of a 1.6M solution (2.6 cc) of butyllithium in hexane on a solution of diisopropylamine (2.8 g) in dry tetrahydrofuran (30 cc) at 10° C.). The reaction mixture is stirred for 30 minutes at 20° C. and then for 30 minutes at 35° C. After cooling to 20° C., methyl iodide (0.63 cc) is added and the mixture is heated for 1 hour at 35° C. The mixture is cooled and diluted with water (20 cc) and ethyl acetate (100 cc). The aqueous phase is washed with ethyl acetate (100 cc), acidified to pH 5 with hydrochloric acid and extracted with ethyl acetate (2×100 cc). The organic phases are washed with water, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa) to give (RS)-2-[2-dimethylaminophenyl]propionic acid in the form of a yellow oil.

reactant | 2-[2-dimethylaminophenyl]acetic acid | 1.8 g | CN(C1=C(C=CC=C1)CC(=O)O)C | C10H13NO2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 2.8 g | C(C)(C)NC(C)C | C6H15N
reactant | methyl iodide | 0.63 cc | CI | CH3I
solvent | tetrahydrofuran | 10 cc | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 cc | O1CCCC1 | C4H8O
solvent | water | 20 cc | O | H2O
solvent | ethyl acetate | 100 cc | C(C)(=O)OCC | C4H8O2
product | (RS)-2-[2-dimethylaminophenyl]propionic acid | CN(C1=C(C=CC=C1)C(C(=O)O)C)C | C11H15NO2
